US07612114B2
6-(2-Amino-4-methoxyphenyl)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol
Synthesized from 6-benzyloxy-3,4-dihydro-2H-naphthalen-1-one according to an analogous synthetic method to Preparation Example 91, 2-benzyloxy-5,7,8,9-tetrahydrobenzocyclohepten-6-one (7.2 g) was used according to an analogous synthetic method to Preparation Example 82 to provide 2-benzyloxy-8,9-dihydro-7H-benzocyclohepten-6-yl trifluoromethanesulfonate (6.7 g). Synthesized from this compound and tributyl(4-methoxy-2-nitrophenyl)tin according to an analogous synthetic method to Preparation Example 77, 3-benzyloxy-8-(4-methoxy-2-nitrophenyl)-6,7-dihydro-5H-benzocycloheptene (4.7 g) was used according to an analogous synthetic method to Example 30 to provide the title compound (2.4 g).

reactant | tributyl(4-methoxy-2-nitrophenyl)tin | C(CCC)[Sn](C1=C(C=C(C=C1)OC)[N+](=O)[O-])(CCCC)CCCC
reactant | 3-benzyloxy-8-(4-methoxy-2-nitrophenyl)-6,7-dihydro-5H-benzocycloheptene | 4.7 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(CCC2)C2=C(C=C(C=C2)OC)[N+](=O)[O-])C=C1 | C25H23NO4
product | 6-(2-Amino-4-methoxyphenyl)-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 2.4 g | NC1=C(C=CC(=C1)OC)C1CC2=C(CCC1)C=C(C=C2)O | C18H21NO2
